US05410061
ii) 4-(Quinolin-2-ylmethoxy)benzyl chloride
Solid N-chlorosuccinimide (16.69 g) was added in portions to a stirred solution of 4-(quinolin-2-ylmethoxy)benzyl alcohol (26.58 g) and triphenylphosphine (32.89 g) in dichloromethane (600 ml) at 0°-5° C. The mixture was stirred for a further 1.5 hours at 0°-5° C. and then purified rapidly by pouring the mixture onto flash silica and eluting with petroleum spirit 40°-60° C.-diethyl ether (2:1) under vacuum.

reactant | N-chlorosuccinimide | 16.69 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-(quinolin-2-ylmethoxy)benzyl alcohol | 26.58 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CO)C=C1 | C17H15NO2
reactant | triphenylphosphine | 32.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 4-(Quinolin-2-ylmethoxy)benzyl chloride | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CCl)C=C1 | C17H14ClNO
